US05654307
Reaction of 4-(3-bromoanilino)-6-fluoropyrido[3,2-d) pyrimidine (50 mg, 0.16 mmol) (described in a previous experimental) with methylamine hydrochloride (32 mg, 0.47 mmol) and triethylamine (70 μL, 0.55 mmol) in ethanol (10 mL) in a pressure vessel at 100° C. for 18 h gives 6-methylamino-4-(3-bromoanilino)pyrido[3,2-d]pyrimidine (43 mg, 81%). 1H NMR (CDCl3) δ 8.81 (1H, brs), 8.61 (1H, s), 8.19 (1H, t, J=1.8 Hz), 7.86 (1H, d, J=9.1 Hz,), 7.83 (1H, dt, Jd =7.7 Hz, Jt =1.8 H), 7.28-7.21 (2H, m), 6.92 (1H, d, J=9.1 Hz), 4.97 (1H, q, J=5.0 Hz), 3.13 (3H, d, J=5.0 Hz).

reactant | 4-(3-bromoanilino)-6-fluoropyrido[3,2-d) pyrimidine | 0.16 mmol, 50 mg | BrC=1C=C(NC=2C3=C(N=CN2)C=CC(=N3)F)C=CC1 | C13H8BrFN4
reactant | methylamine hydrochloride | 0.47 mmol, 32 mg | Cl.CN
reactant | triethylamine | 0.55 mmol, 70 μL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-methylamino-4-(3-bromoanilino)pyrido[3,2-d]pyrimidine | 43 mg, 81% | CNC=1C=CC=2N=CN=C(C2N1)NC1=CC(=CC=C1)Br | C14H12BrN5
